Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Hypotension, Acute Kidney Injury
 
Major Surgical or Invasive Procedure:
___ placement ___
 
History of Present Illness:
Ms. ___ is a ___ y.o. with past medical history of 
depression, polysubstance abuse, obesity, sleep apnea, who 
presented to ___ for numbness in her extremities and 
lightheadedness, and was found to have hypotension and ___.

Patient reported that she was recently prescribed antibiotics 
for recurrent UTI and bronchitis. She has been having non-bloody 
diarrhea for almost a month, for which she has been taking 
Imodium. On the day of admission, she noted numbness in her 
extremities as well as lightheadedness so she presented to ___ 
ED. She was found to be hypotensive with SBP ___ s/p 4 L NS and 
initiation of epinephrine that was switched to levophed. Her 
creatinine was found to be elevated to 8.9, AG 32, pH 7.1,  with 
a normal lactate. CBC was notable for leukocytosis. There was 
concern for substance abuse so she received Narcan x1 and 
fomepizole. She was transferred to ___ for further management.

Of note, she was recently admitted to ___ (___) 
for polysubstance abuse after she overdosed on numerous 
medications, among them, she probably overdosed on Buprenex, 
benzodiazepine, and barbiturates, also had apparent alcohol 
level on admission.  Her tox screen was positive for cannabis, 
Buprenex, benzodiazepines, barbiturates, and amphetamines.

In the ED, patient remained on levophed. Labs were repeated: WBC 
18.2  H/H 9.9/31.3  plts 423; Na 128  K 4.9  bicarb 19 Cr 7.2, 
AGap=26, Lip: 84; pH 7.09 pCO2 62 pO2 2 HCO3 20, lactate 0.7; 
Tox screen was negative for ASA, EtOH, Acetmnphn, ___, 
Tricyc; Osmolal gap <5. CXR was done and showed no acute 
cardiopulmonary process. Consults included toxicology and renal. 
Patient was admitted to ICU. 

Upon arrival to ICU, patient was awake and responsive. She 
answered all questions appropriately but seemed sleepy, 
attributing it to not sleeping overnight. Her vital signs were 
SBP 90's on levophed, HR 70, and sat 98% on RA. She confirmed 
the history above. She denied any current drug or alcohol abuse. 
She reported feeling warm and thirsty. OSH called to report C. 
diff positive.

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting,  constipation. Denies dysuria, 
frequency, or urgency. Denies arthralgias or myalgias. Denies 
rashes or skin changes.  
 
Past Medical History:
PAST MEDICAL HISTORY:  
Major depressive disorder, recurrent
Cannabis, opiate, benzodiazepine, and barbiturate use disorder
Cluster B personality disorder
Obesity
Sleep apnea
Chronic obstructive pulmonary disease
Recent history of overdose on medication
Sphincter of Oddi dysfunction S/P ERCP with sphincter dilation
HYPERLIPIDEMIA
ALCOHOL WITHDRAWAL 
HYPERTENSION
CERVICALGIA 
BACKACHE NOS 
HYPOTHYROIDISM NOS  
LUMP OR MASS IN BREAST 
OVARIAN CYST NEC/NOS  
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T: 98 BP: 83/42 P: 70 R: 15 O2:  98%RA
GENERAL: Alert, oriented, sleepy  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: Supple, JVP not assessed, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: Soft, minimally-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

DISCHARGE PHYSICAL EXAM:
Vitals: Tm 99 Tc 99 BP 148-180/72-100 RR 81-91 RR 20 97% RA 
117.9 kg GENERAL: Alert, oriented x3, calm
HEENT: Sclera anicteric, MMM, oropharynx clear. PERRL with 3>2 
NECK: Supple, JVP not assessed, no LAD  
LUNGS: Light exp wheeze bilaterally, no rhonchi or rales. 
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: Soft, minimally-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
 
Pertinent Results:
ADMISSION LABS:
___ 12:35AM BLOOD WBC-18.2* RBC-3.58* Hgb-9.9* Hct-31.3* 
MCV-87 MCH-27.7 MCHC-31.6* RDW-13.9 RDWSD-44.9 Plt ___
___ 12:35AM BLOOD Neuts-86.0* Lymphs-7.6* Monos-5.2 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-15.64* AbsLymp-1.39 
AbsMono-0.95* AbsEos-0.04 AbsBaso-0.04
___ 12:35AM BLOOD Plt ___
___ 12:35AM BLOOD ___ PTT-27.2 ___
___ 12:35AM BLOOD Glucose-170* UreaN-60* Creat-7.2* Na-128* 
K-4.9 Cl-88* HCO3-19* AnGap-26*
___ 12:35AM BLOOD ALT-23 AST-29 AlkPhos-80 TotBili-0.1
___ 12:35AM BLOOD Lipase-84*
___ 12:35AM BLOOD cTropnT-0.010
___ 12:35AM BLOOD Albumin-3.2* Calcium-5.7* Phos-8.1* 
Mg-2.4
___ 12:35AM BLOOD Osmolal-289
___ 12:35AM BLOOD TSH-0.33
___ 12:35AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 12:41AM BLOOD Type-ART pO2-2* pCO2-62* pH-7.09* 
calTCO2-20* Base XS--14
___ 12:43AM BLOOD Lactate-0.7

PERTINENT INTERVAL LABS:
___ 04:43AM BLOOD Glucose-104* UreaN-60* Creat-6.6* Na-130* 
K-4.7 Cl-88* HCO3-19* AnGap-28*
___ 12:45PM BLOOD Glucose-145* UreaN-56* Creat-4.7*# 
Na-129* K-3.8 Cl-87* HCO3-24 AnGap-22*
___ 07:38PM BLOOD Glucose-103* UreaN-50* Creat-3.2*# 
Na-131* K-3.6 Cl-89* HCO3-25 AnGap-21*
___ 05:19AM BLOOD Glucose-92 UreaN-49* Creat-2.0*# Na-131* 
K-3.7 Cl-91* HCO3-26 AnGap-18
___ 05:59AM BLOOD ___ pO2-37* pCO2-77* pH-7.23* 
calTCO2-34* Base XS-1

IMAGING/STUDIES: 

CXR ___
1. Low lung volumes. 
2. No acute cardiopulmonary process. 

RENAL US ___
No hydronephrosis.

MICROBIOLOGY: 

___ 12:15 am URINE
   URINE CULTURE (Preliminary): 
      GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML..

___ BCx X3 PENDING 

DISCHARGE LABS:
___ 10:18AM BLOOD WBC-14.7* RBC-3.92 Hgb-10.7* Hct-33.4* 
MCV-85 MCH-27.3 MCHC-32.0 RDW-13.5 RDWSD-41.9 Plt ___
___ 05:14AM BLOOD Glucose-114* UreaN-11 Creat-0.6 Na-140 
K-3.3 Cl-101 HCO3-27 AnGap-15
___ 05:14AM BLOOD ALT-18 AST-21 AlkPhos-54 TotBili-<0.2
___ 05:14AM BLOOD Calcium-8.2* Phos-2.4* Mg-1.4*
 
Brief Hospital Course:
___ y.o. with past medical history of depression, polysubstance 
abuse, obesity, sleep apnea, who presented to ___ for 
numbness in her extremities and lightheadedness, and was found 
to have hypotension, ___, and high anion gap acidosis, 
transferred to ___ for further management.

#Acute renal failure: The patient was found to have elevated 
creatinine to 7.2. Renal was consulted, urine sediment was 
notable for absence of crystals and presence of muddy brown 
casts, suggestive of ATN. This was thought to represent a 
sub-acute process, due to prolonged diarrhea leading to 
hypovolemia and ATN. Pre-renal state was thought to be 
exacerbated by patient's reported NSAID use. Renal ultrasound 
was negative for hydronephrosis. Given acidosis (see below), 
methanol and ethylene glycol levels were checked in conjunction 
with toxicology consult but were negative. Patient received IVF 
and Cr resolved over hospital course to 0.6 by the time of 
discharge. 

#Shock: The patient presented with hypotension, thought to be 
hypovolemic vs. distributive in setting of sepsis. Hypovolemic 
shock thought to be secondary to persistent diarrhea and poor po 
intake. Sepsis was also suspected due to UTI vs. C diff colitis. 
The patient was treated with IVF and broad spectrum antibiotics 
as below with improvement and stabilization in BP. 

#Metabolic acidosis: Patient was found to have acidemia with 
high anion gap metabolic acidosis, metabolic alkalosis, and 
respiratory acidosis. Osmolal gap was <5 (methanol and ethylene 
glycol negative as above), glucose not grossly elevated, no 
ketones, lactate low. Tox screen for ASA, Acetmnphn, ___, 
___, Tricyc was negative on this admission but was positive 
positive for barbiturates, benzos, and opiates at OSH prior to 
transfer. Metabolic acidosis thought to be secondary to uremia 
in setting of ___. Metabolic alkalosis thought to be 
compensatory secondary to respiratory acidosis vs. contraction 
alkalosis. Respiratory acidosis was thought to be chronic, 
related to the patient's history of OSA and possible CO2 
retention. The patient's electrolytes and VBG were monitored 
with gradual improvement as renal function resolved. 

#C. diff colitis: Result reported by OSH. Patient has been 
having diarrhea for a month, in the context of multiple 
antibiotics use for recurrent UTI. The severity of C.diff is 
severe complicated due to leukocytosis, ___, shock. The patient 
was started on PO vancomycin and IV metronidazole (d1 = ___, 
transitioned to po vancomycin by the time of discharge. She is 
planned to complete Vancomycin QID until ___.

#Klebsiella UTI: Patient has had a history of UTI requiring 
frequent abx, which may have contributed to CDiff. Given 
symptomatic with urinary frequency and given shock as above, she 
was treated with IV ceftazidime, narrowed to Bactrim 1 tab DS 
BID to complete a total ___nding ___. 

#Polysubstance Abuse: The patient has a history of polysubstance 
abuse, reportedly with multiple prescribed medications which she 
takes intermittently as she feels she needs. Utox at ___ 
positive for barbiturates, likely related to fioricet; benzos 
likely related to high dose alprazolam vs. other ___ opiates 
likely related to MS contin. PMP was reviewed, which showed rx 
of alprazolam 1 mg q6 hrs last filled ___ zolpidem 10 mg po 
qhs last filled ___ prescribed by ___ 
Carisoprodol 350 mg 2.5 tabs per day last filled ___ and 
prescribed by ___. No opiate or narcotic 
prescriptions listed. Per discussion with pt's husband, there is 
a concerning history for narcotic abuse from non-prescription 
sources. The patient was followed by psychiatry and social work 
while admitted. She was continued on home alprazolam 1 mg q6h 
PRN given concern for withdrawal seizure, as she takes this 
medication around the clock. There was a discussion of changing 
to valium for a slow ___ week taper off benzos but patient 
refused prolonging admission. At discharge, patient was provided 
with 1 week supply of alprazolam to avoid withdrawal but 
afterwards will require provider for ongoing prescription. 
Patient and family understood the need to establish consistent 
psychiatry follow-up. Of note, per discussion with outpatient 
mental health providers, patient has frequently violated 
benzodiazepine prescriptions. Per patient report, she has been 
fired from clinics due to her benzodiazepine use. She was seen 
by SW and information for alternate mental health providers was 
provided.

#Hyponatremia: Patient presented with Na+ 128; this was 
initially felt to be likely hypovolemic in setting of 
sepsis/shock vs SIADH in setting of multiple medications. Na+ 
improved with IVF, making hypovolemic hyponatremia most likely 
etiology.

CHRONIC ISSUES:
#COPD: Continued home Fluticasone Propionate 110mcg 2 PUFF IH 
Frequency; Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing 

#Insomnia: Continued home TraZODone 50-150 mg PO QHS:PRN 
Insomnia 

TRANSITIONAL ISSUES:
-Bactrim 1 tab DS BID until ___ (**correction from DC 
worksheet which states ___ as end date. Rx written for total 7 
day course).
-Vancomycin QID until ___
-Pt ultimately needs taper of alprazolam; Should not be on such 
high doses
-Clindamycin (presumably for hidradenitis suppurativa per 
patient) discontinued given C.dif; Consider topical clindamycin 
cream or oral doxycycline
-**NOTE** Unable to reconcile medications completely given 
multiple different lists and patient uncertain of specific 
medications. 
-Patient needs repeat CBC on ___ (WBC increased to 14 on day 
of discharge, but entire CBC appears hemoconcentrated). 
-Full code
- Contact: ___ ___ 
___    
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Clindamycin 300 mg PO Q6H 
2. CloNIDine 0.2 mg PO TID 
3. ALPRAZolam 1 mg PO Q6H:PRN Anxiety 
4. Zolpidem Tartrate 10 mg PO QHS 
5. Fluticasone Propionate 110mcg 2 PUFF IH Frequency is Unknown 
6. Sumatriptan Succinate 50 mg PO Frequency is Unknown 
7. Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing 
8. TraZODone 50 mg PO QHS:PRN Insomnia 
9. meloxicam 7.5 mg oral Unknown 
10. Montelukast 10 mg PO DAILY 
11. Nystatin Oral Suspension Dose is Unknown  PO QID:PRN apply 
to affected area 
12. FLUoxetine 20 mg PO DAILY 
13. melatonin 10 mg oral QHS 
14. Baclofen 10 mg PO TID 
15. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
16. Ipratropium Bromide MDI 2 PUFF IH QID 
17. Magnesium Oxide 400 mg PO DAILY 
18. Lisinopril 20 mg PO DAILY 
19. Cyclobenzaprine 10 mg PO HS:PRN spasm 
20. PARoxetine 10 mg PO DAILY 

 
Discharge Medications:
1. Vancomycin Oral Liquid ___ mg PO Q6H Duration: 19 Days 
RX *vancomycin 125 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*76 Capsule Refills:*0
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing 
3. ALPRAZolam 1 mg PO Q6H:PRN Anxiety 
RX *alprazolam 1 mg 1 tablet(s) by mouth q6h PRN Disp #*28 
Tablet Refills:*0
4. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN dyspnea 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Montelukast 10 mg PO DAILY 
7. TraZODone 50 mg PO QHS:PRN Insomnia 
8. FLUoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
9. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*9 Tablet Refills:*0
10. Baclofen 10 mg PO TID 
11. Ipratropium Bromide MDI 2 PUFF IH QID 
12. Lisinopril 20 mg PO DAILY 
13. Magnesium Oxide 400 mg PO DAILY 
14. melatonin 10 mg oral QHS 
15. meloxicam 7.5 mg ORAL QHS 
16. Nystatin Oral Suspension 10 mL PO QID:PRN apply to affected 
area 
17. Sumatriptan Succinate 50 mg PO DAILY:PRN headache 
18. Outpatient Lab Work
Please collect CBC by ___ and fax to ___

ICD10 A04.7

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Shock
Acute renal failure
Clostridium dificile infection
urinary tract infection
polysubstance abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at the ___ 
___.  You were transferred here for 
management of your C.dif infection, urinary tract infection, 
very low blood pressure and kidney failure. Your blood pressure 
and kidney failure improved with treatment of your infections. 
You will require two different antibiotics for these infections. 
It is important to take all doses of these medications. Please 
drink plenty of fluids, including drinks with salt/sugar like 
Gatorade, while you continue to have frequent diarrhea. You will 
take your Bactrim until ___ for your UTI, and you will take 
your vancomycin until ___ for your CDiff. This is very important 
that you take your antibiotics, as there is a risk your 
infection will not resolve without taking as prescribed. 

Additionally, our psychiatrists recommended that your alprazolam 
be changed to diazepam (a different benzodiazepine) and then 
tapered, which would require additional ___ weeks in the 
hospital. You declined this. Because you stated that you have a 
psychiatry appointment in one week, we gave you one week of 
alprazolam to avoid withdrawal, which can be deadly. You 
expressed understanding of the risks of withdrawal. We recommend 
that you go to the ED if you run out of alprazolam to avoid 
withdrawal. 

Please have your labs checked by ___ and have the results 
faxed to your primary care doctor. We want to make sure your 
infection is resolving, and these labs will help guide 
management. 

If you have trouble finding a psychiatrist, please call 
___ (___). 

We wish you all the best,
Your ___ team
 
Followup Instructions:
___